US06187774B1
By the same reaction and treatment as in Example 91 using 6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine, 2,2-dimethyl-1,3-dioxane-4,6-dione and 1-(4-fluorophenyl)piperazine, 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine is obtained.

reactant | 6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine | N=1C=CN2C1CCCCC2 | C8H12N2
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1=CN=C2N1CCCCC2 | C21H29FN4
